US04325955
3-[o-Fluoro-α-(p-fluorophenyl)benzyl]-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide
A test tube containing 1.0 g. of 3-[o-fluoro-α-(p-fluorophenyl)benzyl]-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-3-ol hydrobromide is immersed in an oil bath at 215° C. for 20 minutes. The compound decomposes, becomes liquid and then rehardens. A 5 ml. portion of acetone is added and the mixture is stirred and filtered. The crystalline product is washed with acetone and dried in vacuo, giving the desired product, m.p. 291°-293° C.

reactant | 3-[o-fluoro-α-(p-fluorophenyl)benzyl]-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-3-ol hydrobromide | Br.FC1=C(C(C2=CC=C(C=C2)F)C2(CSC=3N2CCCN3)O)C=CC=C1
solvent | acetone | CC(=O)C | C3H6O
product | 3-[o-Fluoro-α-(p-fluorophenyl)benzyl]-6,7-dihydro-5H-thiazolo[3,2-a]pyrimidine hydrobromide | Br.FC1=C(C(C2=CC=C(C=C2)F)C2=CSC=3N2CCCN3)C=CC=C1 | InChI=1S/C19H16F2N2S.BrH/c20-14-8-6-13(7-9-14)18(15-4-1-2-5-16(15)21)17-12-24-19-22-10-3-11-23(17)19;/h1-2,4-9,12,18H,3,10-11H2;1H
